US08207164B2
b) 2-(5-Bromo-2-fluoro-phenyl)-2-nitro-propane-1,3-diol
A solution of 4-bromo-1-fluoro-2-nitromethyl-benzene (7.75 g, 33.1 mmol), formaldehyde (35%, aqueous) (5.47 ml, 69.5 mmol) and Et3N (2.3 ml, 16.56 mmol) were stirred in 66 ml dioxane for 3 h. The solution was diluted with brine and extracted with TBME. The organic layer was washed with brine, dried with Na2SO4 and evaporated. The crude product was purified by chromatography on silica gel (heptane/EtOAc 3/1) to provide the title compound as a white solid.

reactant | 4-bromo-1-fluoro-2-nitromethyl-benzene | 33.1 mmol, 7.75 g | BrC1=CC(=C(C=C1)F)C[N+](=O)[O-] | C7H5BrFNO2
reactant | formaldehyde | 69.5 mmol, 5.47 ml | C=O | CH2O
reactant | Et3N | 16.56 mmol, 2.3 ml | CCN(CC)CC | C6H15N
reactant | dioxane | 66 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 2-(5-Bromo-2-fluoro-phenyl)-2-nitro-propane-1,3-diol | BrC=1C=CC(=C(C1)C(CO)(CO)[N+](=O)[O-])F | C9H9BrFNO4
